US08633173B2
[5-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl)-amine
7-[5-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester (105.0 mg, 0.210 mmol) was stirred in 3M trifluoroacetic acid in dichloromethane (10 mL) for 30 minutes. The volatiles were evaporated and the residue was dissolved in ethyl acetate and washed with sodium carbonate solution (2×) and brine. The organic layer was dried over sodium sulfate, filtered and concentrated. Product isolated as a foam (0.079 g, 89%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.64 (d, J=7.7 Hz, 1H), 7.58-7.41 (m, 5H), 7.25-7.21 (m, 1H), 7.16-7.04 (m, 1H), 6.99 (d, J=8.0 Hz, 1H), 6.91-6.87 (m, 1H), 4.35 (br s, 2H), 3.20 (s, 3H), 2.98-2.81 (m, 8H), 2.02 (br s, 1H). MS=400 (MH)+.

reactant | 7-[5-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester | 0.210 mmol, 105.0 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)NC2=NN1C(C=CC=C1C1=C(C=CC=C1)COC)=N2 | C29H33N5O3
solvent | trifluoroacetic acid | 3M | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [5-(2-Methoxymethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yl)-amine | 0.079 g, 89% | COCC1=C(C=CC=C1)C1=CC=CC=2N1N=C(N2)NC2=CC1=C(CCNCC1)C=C2 | C24H25N5O
